US07615651B2
Preparation of Intermediate 2′-Chloro-4′-formyl-biphenyl-3-carboxylic acid amide (I-6e)
2′-Chloro-4′-hydroxymethyl-biphenyl-3-carboxylic acid amide (I-6d: 5.0 g) was suspended in 500 mL of ethyl acetate and treated with activated manganese dioxide (5 equivalents). After stirring for 12 hours, the reaction mixture was filtered through a pad of Celite and concentrated under reduced pressure to afford the title compound (I-6e).

reactant | 2′-Chloro-4′-hydroxymethyl-biphenyl-3-carboxylic acid amide | 5.0 g | ClC1=C(C=CC(=C1)CO)C1=CC(=CC=C1)C(=O)N | C14H12ClNO2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 5 equivalents | [O-2].[O-2].[Mn+4]
product | 2′-Chloro-4′-formyl-biphenyl-3-carboxylic acid amide | ClC1=C(C=CC(=C1)C=O)C1=CC(=CC=C1)C(=O)N | C14H10ClNO2
